US06391887B1
8-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
Analogously to Example 4, 8-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (280 mg, 1.36 mmol) is reacted with Lawesson's reagent (608 mg, 1.5 mmol) to form 240 mg (80%) of product.

reactant | 8-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.36 mmol, 280 mg | FC1=CC=2C3C(C(NC2C=C1)=O)CCC3 | C12H12FNO
reactant | Lawesson's reagent | 1.5 mmol, 608 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 8-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 240 mg, 80% | FC1=CC=2C3C(C(NC2C=C1)=S)CCC3 | C12H12FNS
